Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Worsening cough, night sweats, hemoptysis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M h/o well-controlled HIV (last VL = 0, 
CD4 > 400) p/w 7 d of productive cough and more recently 1 
episode of small volume hemoptysis. Pt developed a progressive 
productive cough w/ green/yellow sputum beginning 7 d ago. After 
seeing PCP, pt given inhaler and steroid burst, which he took 
for 4 d, but symptoms worsened. No fevers, chills, but has been 
having nightsweats, SOB, and some PND, in setting of coughing as 
well. Pt denies any loss of energy, appetite, or unintentional 
weight loss over past few months. He denies orthopnea or 
increased ___ swelling. Despite some n/v in post-tussive setting, 
he is still taking PO. He denies associated chest pain, 
abdominal pain, diarrhea, dysuria. Yesterday, pt had a severe 
bout of coughing w/ one episode of hemoptysis w/ quarter-sized 
red clots, but no further hemoptysis since then. 

His only sick contact has been a friend who was in the hospital 
for skin and heart infection ___ "staph." He has had no 
exposures to homeless shelters or prisons. He has no history of 
DVT, no recent prolonged immobilization.
 
Past Medical History:
-HIV (Well controlled with last VL 0, CD4 >400
-Anxiety
-Tobacco Abuse
-History nasal surgery
 
Social History:
___
Family History:
No h/o recurrent infections. Family history notable for 
pancreatic cancer in mother.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================

Vital Signs: 98.5 - 99.1, BP 101/67 - 105/61, HR 76, RR 18 - 20, 
O2sat 93-94% on RA.
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear 
Neck: Supple.
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Lungs with good air movement, no wheezing, crackles most 
prominent in R upper and middle lobe, with some basilar crackles 
bilaterally.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
Ext: WWP, 2+ pulses, no edema  
Neuro: symmetric smile and eyebrow raise; ___ strength upper 
extremities, able to lift both legs up against gravity; grossly 
symmetric and normal sensation

DISCHARGE PHYSICAL EXAM:
======================

PHYSICAL EXAM:  
Vitals: 97.9-99.1 105/61-125/74 ___ 90-94% RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: Some faint crackles in R upper and middle lobes but 
improved compared to yesterday. 
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: WWP, 2+ pulses, no edema  
Neuro: Motor function grossly normal  

 
Pertinent Results:
ADMISSION LABS:

___ 05:50PM BLOOD WBC-13.1*# RBC-4.38* Hgb-14.2 Hct-40.8 
MCV-93 MCH-32.4* MCHC-34.8 RDW-13.9 RDWSD-47.8* Plt ___
___ 05:50PM BLOOD Neuts-69.3 ___ Monos-8.9 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-9.07* AbsLymp-2.66 AbsMono-1.16* 
AbsEos-0.07 AbsBaso-0.03
___ 05:50PM BLOOD Plt ___
___ 05:50PM BLOOD ___ PTT-22.8* ___
___ 05:50PM BLOOD Glucose-90 UreaN-20 Creat-1.0 Na-141 
K-3.7 Cl-105 HCO3-25 AnGap-15
___ 05:50PM BLOOD Calcium-8.9 Phos-2.4* Mg-2.1
___ 06:27PM BLOOD Lactate-2.0

DISCHARGE LABS:

___ 08:53AM BLOOD WBC-7.8 RBC-4.70 Hgb-15.0 Hct-43.8 MCV-93 
MCH-31.9 MCHC-34.2 RDW-13.9 RDWSD-47.2* Plt ___
___ 08:53AM BLOOD Plt ___
___ 08:53AM BLOOD Glucose-132* UreaN-17 Creat-1.1 Na-138 
K-3.5 Cl-100 HCO3-29 AnGap-13
___ 08:53AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.3

MICRO:

___ RVP, flu, and legionella urine ag negative.

___ blood cultures: pending

___ 11:39 pm
      SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 6:23 am SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 3:09 pm SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

IMAGING:

___:

EXAMINATION:  CHEST (PA AND LAT)
 
INDICATION:  History: ___ with HIV+ and complaints of 
hemoptysis//? any acute
process
 
TECHNIQUE:  Chest PA and lateral
 
COMPARISON:  Chest radiograph ___hest ___
 
FINDINGS: 
 
Heart size is normal.  The mediastinal and hilar contours are 
normal. The
pulmonary vasculature is normal.  Streaky opacity in the 
retrocardiac region
suggests airway thickening and possible associated infection.  
Minimal patchy
right upper lobe opacity is also demonstrated.  No focal 
consolidation.  No
pleural effusion or pneumothorax is seen. There are no acute 
osseous
abnormalities.
 
IMPRESSION: 
 
Streaky retrocardiac and patchy right upper lobe opacities may 
reflect areas
of infection and airways disease.
 
EXAMINATION:  CTA CHEST WITH CONTRAST
 
INDICATION:  History: ___ with well-controlled HIV (VL 0, 
CD4>400) presenting
with hemoptysis, night sweats// hemoptysis, night sweats, ?TB 
vs. malignancy
vs. PE
 
TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax
after the uneventful administration of intravenous contrast.  
Reformatted
coronal, sagittal, thin slice axial images, and oblique maximal 
intensity
projection images were submitted to PACS and reviewed.
 
DOSE:  Acquisition sequence:
   1) Stationary Acquisition 2.5 s, 0.5 cm; CTDIvol = 7.6 mGy 
(Body) DLP = 3.8
mGy-cm.
   2) Spiral Acquisition 3.7 s, 29.1 cm; CTDIvol = 7.1 mGy 
(Body) DLP = 204.9
mGy-cm.
 Total DLP (Body) = 209 mGy-cm.
 
COMPARISON:  Chest radiograph from ___ at 1800, CT chest 
___
 
FINDINGS: 
 
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the
segmental level without filling defect to indicate a pulmonary 
embolus.  The
thoracic aorta is normal in caliber without evidence of 
dissection or
intramural hematoma.  The heart, pericardium, and great vessels 
are within
normal limits. No pericardial effusion is seen.
 
AXILLA, HILA, AND MEDIASTINUM: A right hilar lymph node is 
mildly prominent
measuring 10 mm in short axis (02:41) likely reactive.  No 
axillary or
mediastinal lymphadenopathy is present.  No mediastinal mass.
 
PLEURAL SPACES: No pleural effusion or pneumothorax.
 
LUNGS/AIRWAYS: The airways are patent to the level of the 
segmental bronchi
bilaterally.  Diffuse bronchial wall thickening is consistent 
with airways
disease.  Centrilobular emphysema is mild-to-moderate.  In the 
right upper
lobe, ground-glass opacities with ___ morphology are 
concerning for
small airways infection (02:42, 02:39, 02:32).
 
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
 
ABDOMEN:  Included portion of the upper abdomen is unremarkable.
 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
 
IMPRESSION:
 
1. Right upper lobe ___ ground-glass nodular opacities 
compatible with
small airways infection.
2. Diffuse airway wall thickening compatible with chronic 
airways disease and
mild to moderate centrilobular emphysema.
3. No evidence of pulmonary embolism or aortic abnormality.
4. No findings to suggest malignancy.
 
Brief Hospital Course:
In brief, Mr. ___ is a ___ M h/o well-controlled HIV (last 
VL = 0, CD4 > 400) p/w 7 d of productive cough, night sweats, 
and one recent episode of small volume hemoptysis, who was found 
to have community-acquired pneumonia (which improved with 
ceftriaxone/azithromycin and transitioned to cefpodoxime/azithro 
on discharge). Patient ruled out for TB while inpatient.

ACTIVE ISSUES: 
==============
# Hemoptysis: 
Patient presented with one episode of small volume hemoptysis in 
the setting of severe coughing, with no further episodes after 
admission. CTA showed no evidence of PE and hemoglobin remained 
stable during admission. During admission, patient was ruled out 
for active tuberculosis with three negative concentrated AFB 
smears. Hemoptysis likely secondary to underlying pneumonia or 
trauma from coughing. Hemoptysis resolved on discharge.

# Community-acquired pneumonia
Patient presented with 7-days of productive cough and night 
sweats. Laboratory studies showed leukocytosis and CT was 
notable for right upper lobe ___ ground-glass nodular 
opacities compatible with small airways infection, and workup 
was otherwise unrevealing. Patient thought to have 
community-acquired pneumonia. Treated with IV ceftriaxone and 
azithromycin and transitioned to cefpodoxime and azithromycin 
with plans to complete a 5-day course on discharge (projected 
end date ___. 

CHRONIC ISSUES:
===============
# HIV infection: Pt is currently well-controlled on home triumeq 
and was maintained on abacavir, lamivudine, and dolutegravir 
while hospitalized
# Anxiety: Pt was maintained on his home clonazepam and 
venlafaxine
# Smoking cessation: Pt trying to quit and making progress - his 
efforts were encouraged during his hospitalization

TRANSITIONAL ISSUES:
====================
1. Pt needs to continue cefpodoxime and azithromycin to complete 
a 5-day course (projected end date ___. Pt should follow up 
with PCP to ensure resolution of pneumonia.

CODE: full (presumed) 
CONTACT: ___ (Friend ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5-1 mg PO BID:PRN anxiety 
2. abacavir-dolutegravir-lamivud 600-50-300 mg oral DAILY 
3. Venlafaxine XR 37.5 mg PO DAILY 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 
5. Venlafaxine XR 75 mg PO DAILY 
6. Nicotine Patch 21 mg TD DAILY 
7. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
8. meloxicam 15 mg oral DAILY 
9. PredniSONE 40 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 3 Days 
Last day ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days 
Last day ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*5 Tablet Refills:*0 
3.  abacavir-dolutegravir-lamivud 600-50-300 mg oral DAILY  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing  
5.  ClonazePAM 0.5-1 mg PO BID:PRN anxiety  
6.  meloxicam 15 mg oral DAILY  
7.  Nicotine Patch 21 mg TD DAILY  
8.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
9.  Venlafaxine XR 37.5 mg PO DAILY  
10.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Community acquired pneumonia

Secondary diagnosis:
HIV infection
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted for 
worsening cough with one episode of coughing up blood. You were 
found NOT to have tuberculosis, a potential cause of coughing up 
blood.  But you were found to have pneumonia, for which you were 
treated with antibiotics.  It is very important for you to 
continue taking the cefpodoxime and azithromycin as indicated 
and follow up with your providers.  The next dose of cefpodoxime 
is due at 8pm on ___.  The next dose of azithromycin is due 
8AM on ___.

Please see below for your upcoming appointments.

Sincerely,
Your ___ team
 
Followup Instructions:
___